US08455475B2
9-(1H-Imidazol-1-yl)-3-azaspiro[5.5]undecane (AMN-42)
TFA (2 ml) was added to a solution of tert-butyl 9-(1H-imidazol-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate (1.10 g, 3.45 mmol, 1.0 eq.) in MC (10 ml) at 0° C. and the resulting reaction mixture was stirred at 25° C. for 2 h. The solvent was evaporated under reduced pressure and the residue was azeotroped twice with MC to get the desired product.

reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 9-(1H-imidazol-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | 3.45 mmol, 1.10 g, 1.0 eq. | N1(C=NC=C1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H29N3O2
product | 9-(1H-Imidazol-1-yl)-3-azaspiro[5.5]undecane | N1(C=NC=C1)C1CCC2(CCNCC2)CC1 | C13H21N3
